Name:  ___                  Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: NEUROLOGY
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___
 
Chief Complaint:
dizziness, facial tingling, facial weakness
 
Major Surgical or Invasive Procedure:
none

 
History of Present Illness:
___ is a ___ yo RHF with history of cervical and lumbar disc
disease, migraines, hypothyroidism, and chronic headaches, who
presents with R facial tingling and facial droop.

Patient was at work as anesthesia attending today when she noted
right sided facial numbness and tingling gradual onset for over 
2
hours around 2pm. She looked in the mirror and noted mild R
facial droop. As it was mild, she is unsure whether she noticed
it in the mirror earlier this morning. She denies dysarthria or
problems with reading or speech. She had been functioning
appropriately at work today.

Since yesterday she has noticed that she is slightly unsteady
with specific gait maneuvers like turning quickly such that she
may reach out a hand to lightly touch the wall. She denies any
dizziness or lightheadedness or orthostatic concerns. She had
cervical disc surgery ___ year ago (for ACDF) and had similar
symptoms because of the disc disease for which she received
physical therapy.

She called her ex-husband who is a neurologist about these
symptoms, and he recommended that she go to the ED.
  
 On neuro ROS, the patient reports mild headache which she
describes as stress related and occurs frequency every week. She
denies loss of vision, blurred vision, diplopia, dysarthria,
dysphagia, lightheadedness, vertigo, tinnitus or hearing
difficulty. Denies difficulties producing or comprehending
speech. She does not have any sensory changes or weakness or 
arms
or legs. Has difficulty with gait as described above.
  
 On general review of systems, the pt denies recent fever or
chills.  No night sweats or recent weight loss or gain. Denies
cough, shortness of breath.  Denies chest pain or tightness,
palpitations.  Denies nausea, vomiting, diarrhea, constipation 
or
abdominal pain.  No recent change in bowel or bladder habits.  
No
dysuria.  Denies arthralgias or myalgias. Denies rash.
 
Past Medical History:
 
 Hypothyroidism, s/p lap gastric band placement ___, 
laparoscopic cholecystectomy ___, low back pain, laminectomy 
in ___, herniated disc at C5-C6 and C6-C.  

 
Social History:
___
Family History:
NC
 
Physical Exam:
Admission Physical Exam:
 VSS
 General: Awake, cooperative, NAD.
 HEENT: NC/AT, no scleral icterus noted, MMM, no lesions noted 
in
oropharynx
 Neck: Supple, No nuchal rigidity
 Pulmonary: Normal work of breathing
 Cardiac: warm, well-perfused
 Extremities: No ___ edema.
 Skin: no rashes or lesions noted.
  
 Neurologic:  
 -Mental Status: Alert, oriented, attentive. Language is fluent
 with intact repetition and comprehension. Normal prosody. There
 were no paraphasic errors. Pt. was able to name both high and
low frequency objects. Able to read without difficulty. Speech
was not dysarthric. Able to follow both midline and appendicular
 commands. There was no evidence of apraxia or neglect.  

CN  
 II,III: VFF to confrontation, pupils 4mm->2mm bilaterally
 III,IV,VI: EOMI, no ptosis. No nystagmus  
 V: sensation intact V1-V3 to LT, deficit in R V2-V3 to pinprick
near nasolabial fold
 VII: symm forehead wrinkling, mild R NLFF with slight decrease
in activation on the R

VIII: hears finger rub bilaterally  
 IX,X: palate elevates symmetrically, uvula midline  
 XI: SCM/trapezeii ___ bilaterally  
 XII: tongue protrudes midline, no dysarthria  

Motor: Normal bulk and tone, no rigidity; no asterixis or
 myoclonus. No pronator drift.  
   Delt Bi Tri WE FE  IO  
   C5   C6 C7  C6 C7  T1  
 L 5    ___  5  5   
 R 5    ___  5  5  
  
   IP Quad ___ PF  
   L2 L3   L4-S1 L4 L5  S1/S2  
 L 5  5     5    ___ 
 R 5  5     5    ___

Reflex: No clonus  
   Bi  Bra Pat An Plantar  
   C5  C6  L4  S1 CST  
 L *    ___ mute
 R 2    ___ mute 
*deferred due to IV location

-Sensory: No deficits to light touch. No extinction to DSS. 
  
 -Coordination: No intention tremor. No dysmetria on FNF or HKS
bilaterally.  

-Gait: Stands with slightly wide base. Takes steps independently
and stably with walking, heels, and toes. Slightly unsteady with
tandem gait. Rhomberg able to do 5 second, but then reaches out
hand for stability (rests hand on solid object and is stable,
does not need support).
 
==============================
Discharge Exam
 
 General: Awake, cooperative, NAD.
 HEENT: NC/AT, no scleral icterus noted, MMM, no lesions noted 
in
oropharynx
 Neck: Supple, No nuchal rigidity
 Pulmonary: Normal work of breathing
 Cardiac: warm, well-perfused
 Extremities: No ___ edema.
 Skin: no rashes or lesions noted.
  
 Neurologic:  
 -Mental Status: Alert, oriented, attentive. Language is fluent
 with intact repetition and comprehension. Normal prosody. There
 were no paraphasic errors. Pt. was able to name both high and
low frequency objects. Speech was not dysarthric. Able to follow
both midline and appendicular
 commands. There was no evidence of apraxia or neglect.  

CN  
 II,III: VFF to confrontation, pupils 4mm->2mm bilaterally
 III,IV,VI: EOMI, no ptosis. No nystagmus  
 V: sensation intact V1-V3 to LT, pinprick 
 VII: symm forehead wrinkling, strong eye closure, mild R NLFF
with decrease in activation on the R; stable from yesterday;
taste intact.

VIII: hears finger rub bilaterally  
 IX,X: palate elevates symmetrically, uvula midline  
 XI: SCM/trapezeii ___ bilaterally  
 XII: tongue protrudes midline, no dysarthria  

Motor: Normal bulk and tone, no rigidity; no asterixis or
 myoclonus. No pronator drift.  Full strength throughout.
  
Reflex: deferred

-Sensory: No deficits to light touch. No extinction to DSS. 
  
 -Coordination: No intention tremor. No dysmetria on FNF or HKS
bilaterally.  

- Gait: slow, but steady

 
Pertinent Results:
___ 05:05AM BLOOD Glucose-96 UreaN-11 Creat-0.9 Na-141 
K-3.8 Cl-106 HCO3-25 AnGap-10
___ 05:05AM BLOOD Cholest-181
___ 05:21PM BLOOD %HbA1c-5.3 eAG-105
___ 05:05AM BLOOD Triglyc-68 HDL-61 CHOL/HD-3.0 LDLcalc-106
___ 04:20PM BLOOD TSH-1.6
 
Brief Hospital Course:
___ is a ___ yo RHF with history of cervical and lumbar disc
disease, migraines, hypothyroidism, and chronic headaches, who
presents with dizziness, R facial tingling and facial droop. 
Exam
notable for decreased R facial activation, R V2-V3 sensory
deficit, and mild gait unsteadiness with turning. She is not a 
tPA candidate given low stroke scale and unknown LSW. There is 
no LVO. Etiology of facial weakness, sensory changes, and 
dizziness is most consistent with small brainstem stroke. 

Initial brain MR was negative. Repeat MR with thin cuts through 
the brainstem and internal auditory canal also without evidence 
of stroke. There was small area of possible enhancement (but 
perhaps artifact) seen on MR ___. Given ongoing symptoms of 
unsteadiness and persistent UMN facial droop, we believe the 
most likely explanation is small brainstem ischemic stroke. Plan 
to repeat MR ___ in 4 weeks. 

___ underwent standard stroke workup.
Labs: LDL 106, a1c 5.3%, TSH 1.6
TTE without PFO 

She was started on aspirin and atorvastatin 80mg, which she will 
continue at home. A ziopatch was placed on day of discharge. 

Transitional issues:
- Ziopatch placed on discharge 
- started aspirin 81mg daily and atorvastatin
- repeat brain MR brain and ___ w/ and w/o contrast in 4 weeks
- follow up with Dr. ___ in ___ weeks

=======================
AHA/ASA Core Measures for Ischemic Stroke and Transient Ischemic 
Attack  
1. Dysphagia screening before any PO intake? (x) Yes, confirmed 
done - () Not confirmed () No. If no, reason why:  
2. DVT Prophylaxis administered? (x) Yes - () No. If no, why not 
(I.e. bleeding risk, hemorrhage, etc.)  
3. Antithrombotic therapy administered by end of hospital day 2? 
(x) Yes - () No. If not, why not? (I.e. bleeding risk, 
hemorrhage, etc.)
4. LDL documented? (x) Yes (LDL =106 ) - () No  
5. Intensive statin therapy administered? (simvastatin 80mg, 
simvastatin 80mg/ezetemibe 10mg, atorvastatin 40mg or 80 mg, 
rosuvastatin 20mg or 40mg, for LDL > 70) (x) Yes - () No [if LDL 
>70, reason not given:  
 [ ] Statin medication allergy  
 [ ] Other reasons documented by physician/advanced practice 
nurse/physician ___ (physician/APN/PA) or pharmacist  
 [ ] LDL-c less than 70 mg/dL  
6. Smoking cessation counseling given? () Yes - () No [reason 
(x) non-smoker - () unable to participate]  
7. Stroke education (personal modifiable risk factors, how to 
activate EMS for stroke, stroke warning signs and symptoms, 
prescribed medications, need for followup) given in written 
form? (x) Yes - () No  
8. Assessment for rehabilitation or rehab services considered? 
() Yes - (x) No. If no, why not? at baseline (I.e. patient at 
baseline functional status)
9. Discharged on statin therapy? (x) Yes - () No [if LDL >70, 
reason not given:  
 [ ] Statin medication allergy  
 [ ] Other reasons documented by physician/advanced practice 
nurse/physician ___ (physician/APN/PA) or pharmacist  
 [ ] LDL-c less than 70 mg/dL  
10. Discharged on antithrombotic therapy? (x) Yes [Type: (x) 
Antiplatelet - () Anticoagulation] - () No  
11. Discharged on oral anticoagulation for patients with atrial 
fibrillation/flutter? () Yes - () No - If no, why not (I.e. 
bleeding risk, etc.) (x) N/A  
 

 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. BuPROPion XL (Once Daily) 150 mg PO DAILY 
2. Levothyroxine Sodium 137 mcg PO DAILY 
3. Venlafaxine 150 mg PO DAILY 

 
Discharge Medications:
1.  Aspirin 81 mg PO DAILY 
RX *aspirin [Aspir-81] 81 mg 1 tablet(s) by mouth once a day 
Disp #*30 Tablet Refills:*3 
2.  Atorvastatin 20 mg PO QPM 
RX *atorvastatin 20 mg 1 tablet(s) by mouth once a day Disp #*30 
Tablet Refills:*3 
3.  BuPROPion XL (Once Daily) 150 mg PO DAILY  
4.  Levothyroxine Sodium 137 mcg PO DAILY  
5.  Venlafaxine 150 mg PO DAILY  

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
small brainstem stroke

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear Dr. ___,

___ were hospitalized due to symptoms of dizziness, facial 
droop, and face tingling likely resulting from a small ACUTE 
ISCHEMIC STROKE, a condition where a blood vessel providing 
oxygen and nutrients to the brain is blocked by a clot. The 
brain is the part of your body that controls and directs all the 
other parts of your body, so damage to the brain from being 
deprived of its blood supply can result in a variety of 
symptoms.  
 Stroke can have many different causes, so we assessed ___ for 
medical conditions that might raise your risk of having stroke. 
In order to prevent future strokes, we plan to modify those risk 
factors. Your risk factors are:  
 mild hyperlipidemia   
 We are changing your medications as follows:  
 --Please start aspirin 81mg daily, atorvastatin 40mg daily  
 Please take your other medications as prescribed.  
 Please follow up with Neurology and your primary care physician 
as listed below.  
 If ___ experience any of the symptoms below, please seek 
emergency medical attention by calling Emergency Medical 
Services (dialing 911). In particular, since stroke can recur, 
please pay attention to the sudden onset and persistence of 
these symptoms:  
 - Sudden partial or complete loss of vision  
 - Sudden loss of the ability to speak words from your mouth  
 - Sudden loss of the ability to understand others speaking to 
___  
 - Sudden weakness of one side of the body  
 - Sudden drooping of one side of the face  
 - Sudden loss of sensation of one side of the body  
 Sincerely,  
 Your ___ Neurology Team  

 
Followup Instructions:
___